US04453021
8.8 grams of aluminum chloride was added rapidly to an ice-cooled solution of 9.9 g 2,2-dinitropropanol and 2.0 g trioxane in 50 ml dry dichloromethane under a nitrogen atmosphere. The mixture was stirred 2 days at room temperature, then it was poured onto crushed ice and the mixture stirred vigorously until all aluminum precipitates had dissolved (addition of some sulfuric acid may be required). The product solution was separated, the aqueous phase extracted with dichloromethane, and the extracts washed rapidly with a near saturated, ice cold sodium hydrogen carbonate solution. After drying (MgSO4) the solvent was evaporated in vacuo to give 12.0 g (92%) crude chloromethyl dinitropropyl ether, purity 98% by gas-liquid phase chromatography (GLPC). 1H NMR (CDCl3): δ2.18, s (3H); 4.49 (2, 2H); 5.44 (s,2H).

reactant | aluminum chloride | 8.8 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,2-dinitropropanol | 9.9 g | [N+](=O)([O-])C(CO)(C)[N+](=O)[O-] | C3H6N2O5
reactant | trioxane | 2.0 g | O1OOCCC1 | C3H6O3
reactant | aluminum | [Al] | Al
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | chloromethyl dinitropropyl ether | 12.0 g, 92% | [N+](=O)([O-])C(CCOCCl)[N+](=O)[O-] | C4H7ClN2O5
